// Generated for: spectre
// Generated on: Apr  7 15:18:20 2024
// Design library name: LDO_SSF_Ideal_Source
// Design cell name: tb_LDO_STB_100m
// Design view name: schematic
simulator lang=spectre
global 0
parameters VB_1 VB_2 CAP_CMP RES_CMP IBN_EA ILOAD=100m VDD=2
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

// Library name: LDO_SSF_Ideal_Source
// Cell name: EA_Core
// View name: schematic
subckt EA_Core IBN_EA VB_1 VB_2 VDD VEA VFB VG VREF VSS
    M9 (VG IBP_BUF1 VDD VDD) pch_mac l=500n w=2u multi=2 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (IBP_BUF1 IBP_BUF1 VDD VDD) pch_mac l=500n w=2u multi=1 nf=1 \
        sigma=1 sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u \
        nrd=0.135 nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M3 (IBP_BUF2 VEA VG VDD) pch_mac l=180.0n w=2u multi=4 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M15 (VBP_TAIL VBP_TAIL VDD VDD) pch_mac l=500n w=4u multi=1 nf=1 \
        sigma=1 sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u \
        nrd=0.0675 nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M26 (net128 VBP_TAIL VDD VDD) pch_mac l=500n w=4u multi=3 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net125 VBP_TAIL VDD VDD) pch_mac l=500n w=4u multi=3 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M24 (VEA VB_2 net128 VDD) pch_mac l=180.0n w=4u multi=2 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M19 (net126 VB_2 net125 VDD) pch_mac l=180.0n w=4u multi=2 nf=1 \
        sigma=1 sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u \
        nrd=0.0675 nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M2 (net128 VREF net66 net66) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u nrd=0.054 \
        nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M16 (IBN_EA IBN_EA VSS VSS) nch_mac l=1u w=2u multi=5 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (IBP_BUF2 IBN_EA VSS VSS) nch_mac l=1u w=2u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (IBP_BUF1 IBN_EA VSS VSS) nch_mac l=1u w=2u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (net66 IBN_EA VSS VSS) nch_mac l=1u w=2u multi=5 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (VBP_TAIL IBN_EA VSS VSS) nch_mac l=1u w=2u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M17 (net126 VB_1 net124 VSS) nch_mac l=180.0n w=2u multi=2 nf=1 \
        sigma=1 sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u \
        nrd=0.135 nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M25 (VG IBP_BUF2 VSS VSS) nch_mac l=180.0n w=4u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net125 VFB net66 net66) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u nrd=0.054 \
        nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M18 (VEA VB_1 net127 VSS) nch_mac l=180.0n w=2u multi=2 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net124 net126 VSS VSS) nch_mac l=1u w=2u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (net127 net126 VSS VSS) nch_mac l=1u w=2u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
ends EA_Core
// End of subcircuit definition.

// Library name: LDO_SSF_Ideal_Source
// Cell name: tb_LDO_STB_100m
// View name: schematic
V1 (VB_2 VSS) vsource dc=VB_2 type=dc
V0 (VB_1 VSS) vsource dc=VB_1 type=dc
VIN2 (VDD 0) vsource dc=VDD type=dc
V3 (VSS 0) vsource dc=0 type=dc
V2 (VREF VSS) vsource dc=1.2 type=dc
I4 (VREF IBN_EA) isource dc=IBN_EA type=dc
I1 (VOUT VSS) isource dc=ILOAD type=dc
C1 (VEA net016) capacitor c=CAP_CMP
C0 (VOUT VSS) capacitor c=10n
R0 (net016 VOUT) resistor r=RES_CMP
R1 (VSS VOUT) resistor r=100K
IPRB0 (VOUT net018) iprobe
I8 (IBN_EA VB_1 VB_2 VDD VEA net018 VG VREF VSS) EA_Core
M0 (VOUT VG VDD VDD) pch_mac l=180.0n w=12.000m multi=1 nf=600 sigma=1 \
        sd=540.0n ad=3.24e-09 as=3.2484e-09 pd=12.324m ps=12.3648m \
        nrd=2.25e-05 nrs=2.25e-05 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
stb stb start=1 stop=1G probe=IPRB0 localgnd=VSS annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
